US04105790
Potassium carbonate (17.0g.) was added to a solution of isopropyl bromoacetate (24.0g.) and 4-hydroxyacetophenone (17.7g.) in acetone (200ml.). The mixture was heated under reflux for 24 hours, cooled and filtered. The filtrate was evaporated to an oil which was dissolved in ether (150ml.). The solution was washed with sodium bicarbonate solution (2 × 30ml.), water (2 × 30ml.), dried and evaporated. The residual oil was distilled to give isopropyl 4-acetylphenoxyacetate, I.R. peaks at 1750 and 1670 cm-1.

reactant | Potassium carbonate | 17.0g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl bromoacetate | 24.0g | BrCC(=O)OC(C)C | C5H9BrO2
reactant | 4-hydroxyacetophenone | 17.7g | CC(=O)C=1C=CC(=CC1)O | C8H8O2
solvent | acetone | 200ml | CC(=O)C | C3H6O
product | isopropyl 4-acetylphenoxyacetate | C(C)(=O)C1=CC=C(OCC(=O)OC(C)C)C=C1 | C13H16O4
